US07754728B2
2-Butoxy-9-(3-hydroxymethylbenzyl)adenine (0.09 g, 0.27 mmol), triethylamine (0.20 g, 1.98 mmol), tosyl chloride (0.30 g, 1.57 mmol) and pyridine (0.4 ml) were added to DMF (10 ml), and the mixture was stirred at room temperature for 24 hours. To the reaction mixture was added sodium cyanide (0.40 g, 9.16 mmol), and the mixture was stirred at 80° C. for 18 hours. After removing the solvent, the residue was poured into water and extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, concentrated and the residue was purified by column chromatography (SiO2 20 g, eluting solvent: CHCl3/MeOH=100/1) to give 2-butoxy-9-(3-cyanomethylbenzyl)adenine (0.04 g, 0.12 mmol, yield: 44%) as a white solid.

reactant | 2-Butoxy-9-(3-hydroxymethylbenzyl)adenine | 0.27 mmol, 0.09 g | C(CCC)OC1=NC(=C2N=CN(C2=N1)CC1=CC(=CC=C1)CO)N | C17H21N5O2
reactant | triethylamine | 1.98 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 1.57 mmol, 0.30 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | sodium cyanide | 9.16 mmol, 0.40 g | [C-]#N.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
product | 2-butoxy-9-(3-cyanomethylbenzyl)adenine | 0.12 mmol, 0.04 g, yield: 44% | C(CCC)OC1=NC(=C2N=CN(C2=N1)CC1=CC(=CC=C1)CC#N)N | C18H20N6O
